Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]1[C:3]2[C@@:4]1([C:5]([H:6])([H:7])[H:8])[C@@:9]2([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3][C@@:9]([C:4][C:5]([H:6])([H:7])[H:8])([H:10])[C:11]([H:12])[H:13],1.91108812746
